US07842817B2
1,3-Bis(4-fluorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine
The title compound was prepared from 2-aminobenzimidazole and 4-fluorobenzyl bromide by Procedure A. The product was isolated by preparative LCMS to give the title compound as the free base (white solid, mp 148-150° C.). MS(ES+) m/z 351 ([M+1]+, 100). 1NMR (DMSO-d6) δ 5.07 (s, 4H), 5.75 (br s, 1H), 6.78-6.91 (m, 4H), 7.12-7.18 (m, 4H), 7.30-7.42 (m, 4H).

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 1,3-Bis(4-fluorobenzyl)-1,3-dihydrobenzoimidazol-2-ylideneamine | FC1=CC=C(CN2C(N(C3=C2C=CC=C3)CC3=CC=C(C=C3)F)=N)C=C1 | C21H17F2N3
